US07618961B2
5-methyl-4-[2-(4-morpholinyl)-2-oxoethyl]-1,3-thiazol-2-ylamine
A suspension of alumiumchloride (0.86 g, 6.44 mmol) in DCM (50 mL) was treated dropwise with morpholine (4.7 mL, 53.7 mmol) giving a colorless solution. Methyl (2-amino-5-methyl-1,3-thiazol-4-yl)acetate (1.0 g, 5.37 mmol) was added (orange solution) and after 1 h, the reaction mixture was quenched with aqueous citric acid (3%, 10 mL) and basified with saturated aqueous sodium bicarbonate. Extraction with DCM (3×50 mL), drying (sodium sulfate) of the combined organic layers and evaporation of the volatiles gave 0.70 g of a yellow foam. Purification of the solid by flash column chromatography on silicagel eluting with DCM/methanol (10/1 v/v) gave 545 mg (42%) of an ivory solid: Anal. Calcd. (found) for C10H15N3O2S: C, 49.7 (49.5)%; H, 6.3 (6.3)%; N, 17.4 (17.3)%; S, 13.3 (13.3).

reactant | morpholine | 53.7 mmol, 4.7 mL | N1CCOCC1 | C4H9NO
reactant | Methyl (2-amino-5-methyl-1,3-thiazol-4-yl)acetate | 5.37 mmol, 1.0 g | NC=1SC(=C(N1)CC(=O)OC)C | C7H10N2O2S
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-methyl-4-[2-(4-morpholinyl)-2-oxoethyl]-1,3-thiazol-2-ylamine | 0.70 g | CC1=C(N=C(S1)N)CC(=O)N1CCOCC1 | C10H15N3O2S
